US06211234B1
By proceeding in a similar manner, but replacing methyl 4-benzyloxy-2-hydroxybenzoate with 3-benzyloxyphenol and ethyl (RS)-4-chloro-4-phenylbutanoate with ethyl (RS)-4-chloro-4-(2-methyl)phenylbutanoate, there is prepared ethyl (RS)-4-[(3-benzyloxy)phenoxy]-4-(2-methylphenyl)butanoate. By proceeding in a similar manner, but replacing methyl 4-benzyloxy-2-hydroxybenzoate with 3-(3-thienylmethoxy)phenol, there is prepared ethyl (RS)-4-[3-(3-thienylmethoxy)phenoxy]-4-phenylbutanoate. By proceeding in a similar manner, but replacing methyl 4-benzyloxy-2-hydroxybenzoate with 2-hydroxy-4-(3-thienylmethoxy)acetophenone, there is prepared ethyl (RS)-4-[2-acetyl-5-(3-thienylmethoxy)phenoxy)]-4-phenylbutanoate. By proceeding in a similar manner but replacing methyl 4-benzyloxy-2-hydroxybenzoate with 2-hydroxy-4-benzyloxy-N-ethylbenzamide there is obtained ethyl (RS)-4-[2-(N-ethylcarbamoyl)-5-benzyloxyphenoxy]-4-phenyl-butanoate. By proceeding in a similar manner but replacing methyl 4-benzyloxy-2-hydroxybenzoate with 2-hydroxy-4-(3-thienylmethoxy)acetophenone and ethyl (RS)-4-chloro-4-phenylbutanoate with ethyl (RS)-4-chloro-4-(2-methylphenyl)butanoate, there is prepared ethyl (RS)-4-[2-acetyl-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)-butanoate. By proceeding in a similar manner, but replacing methyl 4-benzyloxy-2-hydroxybenzoate with 2-hydroxy-4-(3-pyridylmethoxy)acetophenone, there is prepared ethyl (RS)-4-[2-acetyl-5-(3-pyridylmethoxy)phenoxy]-4-phenylbutanoate. By proceeding in a similar manner, but replacing methyl 4-benzyloxy-2-hydroxybenzoate with 4-benzyloxy-2-hydroxybenzamide, there is prepared ethyl (RS)-4-[2-carbamoyl-5-benzyloxyphenoxy]-4-phenylbutanoate. By proceeding in a similar manner, but replacing methyl 4-benzyloxy-2-hydroxybenzoate with 4-benzyloxy-2-hydroxy-N,N-dimethylbenzamide, there is prepared ethyl (RS)-4-[2-N,N-dimethylcarbamoyl-5-benzyloxyphenoxy]-4-phenylbutanoate. By proceeding in a similar manner. but replacing methyl 4-benzyloxy-2-hydroxybenzoate with 4-(3-thienylmethoxy)-2-hydroxybenzamide and ethyl (RS)-4-chloro-4-phenylbutanoate with ethyl (RS)-4-chloro-4-(2-methylphenyl)butanoate, there is prepared ethyl (RS)-4-[2-carbamoyl-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate.

reactant | 3-benzyloxyphenol | C(C1=CC=CC=C1)OC=1C=C(C=CC1)O | C13H12O2
reactant | ethyl (RS)-4-chloro-4-phenylbutanoate | ClC(CCC(=O)OCC)C1=CC=CC=C1 | C12H15ClO2
reactant | 3-(3-thienylmethoxy)phenol | S1C=C(C=C1)COC=1C=C(C=CC1)O | C11H10O2S
reactant | ethyl (RS)-4-[3-(3-thienylmethoxy)phenoxy]-4-phenylbutanoate | S1C=C(C=C1)COC=1C=C(OC(CCC(=O)OCC)C2=CC=CC=C2)C=CC1 | C23H24O4S
reactant | 4-phenylbutanoate | C1(=CC=CC=C1)CCCC(=O)[O-]
reactant | 2-hydroxy-4-benzyloxy-N-ethylbenzamide | OC1=C(C(=O)NCC)C=CC(=C1)OCC1=CC=CC=C1 | C16H17NO3
product | ethyl (RS)-4-[2-(N-ethylcarbamoyl)-5-benzyloxyphenoxy]-4-phenyl-butanoate | C(C)NC(=O)C1=C(OC(CCC(=O)OCC)C2=CC=CC=C2)C=C(C=C1)OCC1=CC=CC=C1 | C28H31NO5
